US04751229
The crude β,δ-dihydroxy-6-heptenoic acid, methyl ester from the previous step was dissolved in a mixture of 30 ml of dichloromethane and 10 ml of 2,2-dimethoxypropane. Camphorsulfonic acid (0.05 g) was added, and the mixture was stirred overnight. Concentration of the reaction mixture and flashchromatography of the residue yielded 1.1 g of 6-ethenyl-2,2-dimethyl-1,3-dioxane-4- acetic acid, methyl ester which was employed in the subsequent step without further purification.

reactant | β,δ-dihydroxy-6-heptenoic acid, methyl ester | OC(CC(=O)OC)CC(C=C)O | C8H14O4
reactant | Camphorsulfonic acid | 0.05 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | 2,2-dimethoxypropane | 10 ml | COC(C)(C)OC | C5H12O2
product | 6-ethenyl-2,2-dimethyl-1,3-dioxane-4- acetic acid, methyl ester | 1.1 g | C(=C)C1CC(OC(O1)(C)C)CC(=O)OC | C11H18O4
